US06255285B1
To a solution of Z-Phe-OH (742 mg) in THF (3 ml), isobutyl chloroformate (0.32 ml) and NMM (0.27 ml) were added under cooling with ice and the mixture was stirred for 15 minutes. Subsequently, a solution of N-Me-Val-N-Me-Tyr(3-tBu)-NH2 (600 mg) in THF (3 ml) was added and the mixture was stirred at room temperature for 10 hours. Water was added to the reaction mixture and extraction was effected with ethyl acetate. The extract was washed with saturated brine, dried with sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluting solvent; n-hexane:acetone=3:2) to give Z-Phe-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 in the amount of 611 mg (58%).

reactant | Z-Phe-OH | 742 mg | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO4
reactant | N-Me-Val-N-Me-Tyr(3-tBu)-NH2 | 600 mg | N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C | C20H33N3O3
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | isobutyl chloroformate | 0.32 ml | ClC(=O)OCC(C)C | C5H9ClO2
solvent | NMM | 0.27 ml | CN1CCOCC1 | C5H11NO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | Z-Phe-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 | N([C@@H](CC1=CC=CC=C1)C(=O)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C)C(=O)OCC1=CC=CC=C1 | C37H48N4O6
